US06489517B1
2,5-Xylenol (90 g, 0.73 mol) was melted at 80° C., 1 mL of concentrated sulfuric acid was added, and the mixture was heated at 90° C. while isobutylene gas was introduced subsurface over 4 hours. The reaction appeared to stall at about 80% conversion. The reaction mass was diluted with water and neutralized with NaHCO3, and some starting xylenol was removed by steam-distillation. Since the steam-distillation did not completely remove the starting material, the residue was dissolved in hot hexanes, separated from the aqueous phase, and cooled in an ice-bath. The precipitated product was filtered and washed with cold hexanes to give 64 g (49%) of 4-t-Butyl-2,5-xylenol; lit.(Stevens, Ind. Eng. Chem. 1943, 655; Parc, Rev. Inst. Fr. Pet. 1960, 680) mp 70-72° C. 1H-NMR (CDCl3) δ 1.37, (s, 9H), 2.20 (s, 3H), 2.43 (s, 3H), 4.85 (s, 1H), 6.53 (s, 1H), 7.08 (s, 1H).

reactant | 2,5-Xylenol | 0.73 mol, 90 g | C=1(C(=CC=C(C1)C)C)O | C8H10O
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | isobutylene | CC(C)=C | C4H8
solvent | water | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4-t-Butyl-2,5-xylenol | 64 g, 49% | C(C)(C)(C)C=1C=C(C(=CC1C)O)C | C12H18O
